US06221914B1
4,4′-(2-Oxa-propanediyl)-di-benzonitrile
To a cooled (0° C.), stirred solution of 4-cyanobenzyl alcohol (637 mg, 4.8 mmol) in dry THF (15 mL) was added a dispersion of sodium hydride in mineral oil (60%; 192 mg, 4.8 mmol), portionwise over five minutes under an argon atmosphere. The resulting milky white solution was allowed to warm to room temperature and stirred for three hours (bubbling was observed). To the resulting light green mixture was added dry dimethylformamide (3 mL) to improve homogeneity. After stirring for an additional hour, the 4-cyanobenzyl bromide (930 mg, 4.8 mmol) was added. The resulting yellow, cloudy mixture was stirred at room temperature overnight. The reaction was then carefully quenched with the addition of 1 N aqueous HCl (15 mL) and extracted with ether (3×30 mL). The combined ethereal extracts were washed with water and brine then dried (MgSO4), filtered and concentrated in vacuo to provide the desired ether as a light yellow solid (1.06 g, 89%). No further purification was necessary.

reactant | 4-cyanobenzyl alcohol | 4.8 mmol, 637 mg | C(#N)C1=CC=C(CO)C=C1 | C8H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-cyanobenzyl bromide | 4.8 mmol, 930 mg | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4,4′-(2-Oxa-propanediyl)-di-benzonitrile | C(OCC1=CC=C(C#N)C=C1)C1=CC=C(C#N)C=C1 | C16H12N2O
